US07985862B2
5-chloro-1-[5-fluoro-2-(methylsulfonyl)benzyl]-2-imino-1,2-dihydropyridine-3-carboxamide hydrochloride
2-Cyano-2-(3,4-dichloro-5-oxo-2,5-dihydrofuran-2-yl)acetamide (3.0 g), 1-[5-fluoro-2-(methylsulfonyl)phenyl]methanamine hydrochloride (3.67 g) and potassium carbonate (5.29 g) were stirred in ethanol (50 ml) at 85° C. for 24 hr. The reaction mixture was treated with 1N sodium hydroxide solution, and extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by basic silica gel column chromatography (ethyl acetate:hexane=4:1). The obtained yellow solid was dissolved in methanol, and 4N hydrogen chloride-ethyl acetate solution (5 ml) was added. The mixture was crystallized from methanol-ethyl acetate, and the precipitated crystals were collected by filtration, and recrystallized to give the title compound (1.14 g).

reactant | 2-Cyano-2-(3,4-dichloro-5-oxo-2,5-dihydrofuran-2-yl)acetamide | 3.0 g | C(#N)C(C(=O)N)C1OC(C(=C1Cl)Cl)=O | C7H4Cl2N2O3
reactant | 1-[5-fluoro-2-(methylsulfonyl)phenyl]methanamine hydrochloride | 3.67 g | Cl.FC=1C=CC(=C(C1)CN)S(=O)(=O)C
reactant | potassium carbonate | 5.29 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 5-chloro-1-[5-fluoro-2-(methylsulfonyl)benzyl]-2-imino-1,2-dihydropyridine-3-carboxamide hydrochloride | 1.14 g | Cl.ClC=1C=C(C(N(C1)CC1=C(C=CC(=C1)F)S(=O)(=O)C)=N)C(=O)N | InChI=1S/C14H13ClFN3O3S.ClH/c1-23(21,22)12-3-2-10(16)4-8(12)6-19-7-9(15)5-11(13(19)17)14(18)20;/h2-5,7,17H,6H2,1H3,(H2,18,20);1H
